US06677110B2
To a mixture of 0.73 g of the following coupler for comparison (C-2) (Compound (2) described in U.S. Pat. No. 5,455,149), 0.80 g of N-ethyl-N-(β-methanesulfonamidoethyl)-3-methyl-4-aminoaniline sulfate, 3.75 g of sodium carbonate, 60 ml of THF and 50 ml of water, a solution of 1.45 g of ammonium persulfate dissolved in 10 ml of water was gradually added with stirring at room temperature. After stirring the reaction mixture at 60° C. for 10 minutes, the THF layer was separated and purified by silica gel column chromatography, to obtain a dye for comparison (CD-2) which was a yellow azomethine dye for comparison as shown below.

reactant | N-ethyl-N-(β-methanesulfonamidoethyl)-3-methyl-4-aminoaniline sulfate | 0.80 g | S(=O)(=O)(O)O.C(C)N(C1=CC(=C(C=C1)N)C)CCNS(=O)(=O)C
reactant | sodium carbonate | 3.75 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | THF | 60 ml | C1CCOC1 | C4H8O
reactant | ammonium persulfate | 1.45 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | water | 10 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | CD-2 | CCN(CC)C1=CC(=C(C=C1)N)C | C11H18N2
